US08912186B2
By a procedure similar to that of example 1.59.1, starting from benzaldehyde and 4-phenoxyacetophenone, 1-(4-phenoxyphenyl)-3-phenylprop-2-en-1-one was obtained as yellowish solid.

reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | 4-phenoxyacetophenone | CC(=O)C1=CC=C(C=C1)OC2=CC=CC=C2 | C14H12O2
product | 1-(4-phenoxyphenyl)-3-phenylprop-2-en-1-one | O(C1=CC=CC=C1)C1=CC=C(C=C1)C(C=CC1=CC=CC=C1)=O | C21H16O2
